US07763732B2
A solution of 7-chloro-1-cyclohexylmethylindole (8.1 g, 32.0 mmol) in dimethylformamide (40 ml) was cooled to 0° C. under nitrogen and trifluoroacetic anhydride (4.1 ml, 36.0 mmol) was added. The mixture was stirred at room temperature for 4 h. The mixture was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate and combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The obtained crystals were washed with n-heptane to afford 7-chloro-1-(cyclo-hexyl)methyl-3-[(trifluoromethyl)carbonyl]-1H-indole (8.6 g, 25.0 mmol).

reactant | 7-chloro-1-cyclohexylmethylindole | 32.0 mmol, 8.1 g | ClC=1C=CC=C2C=CN(C12)CC1CCCCC1 | C15H18ClN
reactant | trifluoroacetic anhydride | 36.0 mmol, 4.1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 7-chloro-1-(cyclo-hexyl)methyl-3-[(trifluoromethyl)carbonyl]-1H-indole | 25.0 mmol, 8.6 g | ClC=1C=CC=C2C(=CN(C12)CC1CCCCC1)C(=O)C(F)(F)F | C17H17ClF3NO
